US07122669B1
Stage 1: 2,6-dichloro-9-(tetrahydro-3-thienyl)-9H-purine.
312 mg of 3-hydroxythiophene, 380 mg of 2,6-dichloropurine, 6 ml of tetrahydrofuran, 786 mg of triphenylphosphine (P(phenyl)3) are mixed together at ambient temperature then 0.47 ml of DEAD (diethyl-azodicarboxylate) is added over 10 minutes and agitation is carried out overnight at ambient temperature. Then 10 ml of NaH2PO4 in aqueous solution 1M is added, followed by extracting 3 times with 10 ml of methylene chloride, washing with 10 ml of water with 5 of an aqueous solution of sodium chloride, drying and evaporating to dryness. After purification on silica eluting with methylene chloride/ethyl acetate in a proportion of 75/25 then 90/10, impasting is carried out at ambient temperature in 5 ml of isopropyl ether, followed by separating, washing with 5 ml of isopropyl ether and drying at ambient temperature. In this way 137 mg of expected product is obtained in the form of white crystals.

reactant | 3-hydroxythiophene | 312 mg | OC1=CSC=C1 | C4H4OS
reactant | 2,6-dichloropurine | 380 mg | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | triphenylphosphine | 786 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 0.47 ml | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 2,6-dichloro-9-(tetrahydro-3-thienyl)-9H-purine | 137 mg | ClC1=NC(=C2N=CN(C2=N1)C1CSCC1)Cl | C9H8Cl2N4S
